* imported from symcirc/test_circuits/Emitteramp_deutsch.net (github.com/Creapson/symcirc)
* Schematics Netlist +



Q_Q1         4 3 5 Q2N2222
Vcc         6 0 DC 15  
Cin         1 3 100n 
R1         6 3 95331.9
R2         3 0 25683.2
RC         6 4 3947.37
RL         2 0 1000k
Cout         4 2 10n 
RE         5 0 1198.02
VIN         1 0  AC 1 sin( 0 0.1 1000hz )

.model Q2N2222 
+ NPN                                 
+ IS=14.340000E-15 
+ BF=255.9          
+ NF=1            
+ VAF=74.03         
+ IKF=.2847       
+ ISE=14.340000E-15 
+ NE=1.307        
+ BR=6.092        
+ NR=1            
+ RB=10            
+ RC=1            
+ CJE=22.010000E-12 
+ MJE=.377        
+ CJC=7.306000E-12 
+ MJC=.3416       
+ TF=411.100000E-12 
+ XTF=3            
+ VTF=1.7          
+ ITF=.6          
+ TR=46.910000E-09 
+ XTB=1.5    
.end
